US09326973B2
Neat (bromomethyl)benzene (531 mg) was added to a stirred mixture of 5-oxooctahydropentalene-2-carboxylic acid (435 mg) and DIPEA (0.542 mL) in acetonitrile (2.5 mL) and CHCl3 (2.5 mL) and the mixture was stirred at rt overnight. Reaction mixture was evaporated to dryness and purified by silica gel FCC (0-1% MeOH in DCM) to afford benzyl 5-oxooctahydropentalene-2-carboxylate which was isolated as an endo/exo isomeric mixture.

reactant | (bromomethyl)benzene | 531 mg | BrCC1=CC=CC=C1 | C7H7Br
reactant | 5-oxooctahydropentalene-2-carboxylic acid | 435 mg | O=C1CC2CC(CC2C1)C(=O)O | C9H12O3
reactant | DIPEA | 0.542 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | CHCl3 | 2.5 mL | C(Cl)(Cl)Cl | CHCl3
product | benzyl 5-oxooctahydropentalene-2-carboxylate | O=C1CC2CC(CC2C1)C(=O)OCC1=CC=CC=C1 | C16H18O3
